US08981111B2
To a solution of N-hydroxy-1-(1-methyl-1H-imidazol-2-yl)-1-phenylmethanimine (3.50 g, 17.4 mmol) and 2-(chloromethyl)pyrimidin-4-amine (2.62 g, 18.3 mmol) in acetonitrile (120 mL) were added cesium carbonate (5.67 g, 17.4 mmol) and potassium iodide (289 mg, 1.74 mmol). After stirring 6 h at 60° C., overnight at room temperature, then again 8 h at 60° C., the reaction mixture was diluted with water (150 mL), sat. aq. sodium bicarbonate (50 mL) and extracted with dichloromethane (2×100 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford 2-[({[(1-methyl-1H-imidazol-2-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-amine as a foamy solid [4.80 g, yield 76%; HPLC/MS: m/z=309 (M+H); log P(Neutral)=1.42].

reactant | N-hydroxy-1-(1-methyl-1H-imidazol-2-yl)-1-phenylmethanimine | 17.4 mmol, 3.50 g | ON=C(C1=CC=CC=C1)C=1N(C=CN1)C | C11H11N3O
reactant | 2-(chloromethyl)pyrimidin-4-amine | 18.3 mmol, 2.62 g | ClCC1=NC=CC(=N1)N | C5H6ClN3
reactant | cesium carbonate | 17.4 mmol, 5.67 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 1.74 mmol, 289 mg | [I-].[K+]
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
solvent | water | 150 mL | O | H2O
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | 2-[({[(1-methyl-1H-imidazol-2-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-amine | yield 76% | CN1C(=NC=C1)C(C1=CC=CC=C1)=NOCC1=NC=CC(=N1)N | C16H16N6O
